US04308273
Preparation of 5,6,7,8-tetrahydro-6-(3-butenyl)-1,6-naphthyridine (Compound No. 14)
A mixture of 1,6-naphthyridine (3.9 g, 0.03 mol) and 4-bromo-1-butene (4.9 g, 0.036 mol) was heated at 70°-80° C. for 5 hours. The reaction mixture was washed with a small quantity of ether, dissolved in methanol (200 ml) and water (60 ml). To the mixture, sodium borohydride (5.7 g, 0.15 mol) was added portionwise over the internal temperature range 0° to 20° C. After stirring overnight at room temperature, the mixture was evaporated in vacuo, water added and extracted with benzene. The benzene layer was dried over anhydrous potassium carbonate and evaporated in vacuo. The resulting residue was purified by alumina column chromatography (eluted successively with petroleum ether, benzene and chloroform) and distilled, bp. 100°-103° C./0.9 mmHg, to afford the Compound No. 14 (1.6 g, 28.4%) as a colorless oil.

reactant | 1,6-naphthyridine | 0.03 mol, 3.9 g | N1=CC=CC2=CN=CC=C12 | C8H6N2
reactant | 4-bromo-1-butene | 0.036 mol, 4.9 g | BrCCC=C | C4H7Br
reactant | sodium borohydride | 0.15 mol, 5.7 g | [BH4-].[Na+]
product | 5,6,7,8-tetrahydro-6-(3-butenyl)-1,6-naphthyridine | C(CC=C)N1CC=2C=CC=NC2CC1 | C12H16N2
